US05095022
4-(Dibenz[b,e]oxepin-11(6H)-ylidene)-1-piperidinepropionic acid
A mixture of 3.70 g of ethyl 4-(dibenz[b,e]oxepin-11(6H)-ylidene)-1-piperidinepropionate, 9.9 ml of 2N sodium hydroxide aqueous solution and 40 ml of methanol was refluxed for 30 min and concentrated. Water was added to the residue, adjusted to pH 3 with 10% hydrochloric acid. The precipitate was collected by filtration and washed with water and ether to give 3.30 g of pale yellow crystals, which were recrystallized from a mixture of water and N,N-dimethylformamide to give 2.75 g of pale yellow crystals, mp 142°-143° C.

reactant | ethyl 4-(dibenz[b,e]oxepin-11(6H)-ylidene)-1-piperidinepropionate | 3.70 g | C1=CC=CC=2OCC3=C(C(C21)=C2CCN(CC2)CCC(=O)OCC)C=CC=C3 | C24H27NO3
reactant | sodium hydroxide | 2N, 9.9 ml | [OH-].[Na+]
solvent | methanol | 40 ml | CO | CH4O
product | 4-(Dibenz[b,e]oxepin-11(6H)-ylidene)-1-piperidinepropionic acid | 3.30 g | C1=CC=CC=2OCC3=C(C(C21)=C2CCN(CC2)CCC(=O)O)C=CC=C3 | C22H23NO3
